US06239131B1
Preparation of 1-(2-nitrophenacyl)-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (100 mg) was added to a suspension of 60% sodium hydride (22 mg) in N,N-dimethylformamide (5 ml), the mixture was stirred at room temperature for 15 minutes. Subsequently, 2-bromo-2′-nitroacetophenone (102 mg) was added thereto, and stirred at room temperature for one hour. Water was added to the reaction mixture, extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Isopropyl ether was added to the residue for trituration and collected by filtration, to thereby to obtain 76 mg of the title compound as a light yellow solid (Yield: 52%).

reactant | 2-Oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 100 mg | O=C1C(CN(C2=C(N1)C=CC=C2)C(C(C)(C)C)=O)NC(=O)OC(C)(C)C | C19H27N3O4
reactant | sodium hydride | 22 mg | [H-].[Na+]
reactant | 2-bromo-2′-nitroacetophenone | 102 mg | BrCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(2-nitrophenacyl)-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 76 mg, Yield: 52% | [N+](=O)([O-])C1=C(C(CN2C(C(CN(C3=C2C=CC=C3)C(C(C)(C)C)=O)NC(=O)OC(C)(C)C)=O)=O)C=CC=C1 | C27H32N4O7
